US06537994B2
1-Hexyl-3-{3-[3-(4-{2-[2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenyl)-3H-imidazo[4,5-b]pyridin-2-yl]-phenyl}-urea
N-(3-{3-[4-(2-aminoethyl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}phenyl)-N′-hexylurea formate (0.27 g, 0.539 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.217 g, 0.54 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.19 g, 0.22 mmol).

reactant | N-(3-{3-[4-(2-aminoethyl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}phenyl)-N′-hexylurea formate | 0.539 mmol, 0.27 g | C(=O)O.NCCC1=CC=C(C=C1)N1C(=NC=2C1=NC=CC2)C=2C=C(C=CC2)NC(=O)NCCCCCC
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.54 mmol, 0.217 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-Hexyl-3-{3-[3-(4-{2-[2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenyl)-3H-imidazo[4,5-b]pyridin-2-yl]-phenyl}-urea | 0.22 mmol, 0.19 g | C(CCCCC)NC(=O)NC1=CC(=CC=C1)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNCC(COC1=CC=C(C=C1)O)O | C36H42N6O4
